US05604229
2-Acetamido-1,3-diacetoxy-2-octadecylpropane (1.00 g) was dissolved in 26 ml of methanol and 6.4 ml of a 1N aqueous sodium hydroxide solution was added thereto. The mixture was refluxed under heating for 6 hours. The mixture was neutralized with a 1N aqueous hydrochloric acid solution and concentrated under reduced pressure. The concentrate was washed with water and ethyl acetate:hexane=1:1 in order to give 639 mg of 2-amino-2-octadecyl-1,3-propanediol hydrochloride.

reactant | 2-Acetamido-1,3-diacetoxy-2-octadecylpropane | 1.00 g | C(C)(=O)NC(COC(C)=O)(COC(C)=O)CCCCCCCCCCCCCCCCCC | C27H51NO5
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 26 ml | CO | CH4O
product | 2-amino-2-octadecyl-1,3-propanediol hydrochloride | 639 mg | Cl.NC(CO)(CO)CCCCCCCCCCCCCCCCCC | InChI=1S/C21H45NO2.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-21(22,19-23)20-24;/h23-24H,2-20,22H2,1H3;1H
